US06465467B1
Step 1: 2-(1H-Indol-7-yloxy)-1-ethanol.
A mixture of 7-hydroxyindole (1.00 g, 7.51 mmol) and ethylene oxide (0.33 g, 7.50 mmol) in dioxane (3 mL) was placed in a reaction tube. NaH (60% in oil; 0.100 g, 2.45 mmol) was added and the reaction mixture was stirred at 100° C. for 5 days. The reaction mixture was poured into water, extracted with EtOAc, dried (MgSO4) and concentrated. The residue was purified by chromatography on silica gel using toluene/EtOAc (1:1) as eluent to give 0.45 g (34%) of the title product. Pos-EI-MS shows M+ and 5 ions supporting the stated structure. HRMS m/z calcd for C10H11NO2 (M)+ 177.0790, found 177.0799.

reactant | 7-hydroxyindole | 7.51 mmol, 1.00 g | OC=1C=CC=C2C=CNC12 | C8H7NO
reactant | ethylene oxide | 7.50 mmol, 0.33 g | C1CO1 | C2H4O
reactant | NaH | 2.45 mmol, 0.100 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(1H-Indol-7-yloxy)-1-ethanol | 0.45 g, 34% | N1C=CC2=CC=CC(=C12)OCCO | C10H11NO2
